US07332631B2
Preparation of 3-[2-(3-Cyanophenyl)-2-oxoethylsulfanyl]benzoic acid (VIB 216)
Bromoacetylbenzonitrile (300 mg, 1.34 mmole) and anhydrous K2CO3 (740 mg, 5.35 mmole) in ethanol, 210 mg (1.36 mmole) 3-mercaptobenzoic acid was added and the mixture refluxed overnight. The solvent was evaporated and water added to the solid residue. The basic aqueous solution was extracted with ethyl acetate to remove unreacted-bromoacetylbenzonitrile. The aqueous layer was acidified and extracted with ethyl acetate, dried, evaporated and the residue purified by flash chromatography using chloroform followed by chloroform:methanol (99:1). Evaporation of high Rf yellow fractions resulted in a yellow powder (130 mg). M.S. m/s 296 (M−1)+. 1H NMR (DMSO) δ 4.31 (2H, s, —CH2-), 7.25-8.25 (8H, m, 8×ArH).

reactant | Bromoacetylbenzonitrile | 1.34 mmole, 300 mg | BrCC(=O)C1=C(C#N)C=CC=C1 | C9H6BrNO
reactant | K2CO3 | 5.35 mmole, 740 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-mercaptobenzoic acid | 1.36 mmole, 210 mg | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | ethanol | C(C)O | C2H6O
product | 3-[2-(3-Cyanophenyl)-2-oxoethylsulfanyl]benzoic acid | 130 mg | C(#N)C=1C=C(C=CC1)C(CSC=1C=C(C(=O)O)C=CC1)=O | C16H11NO3S
